US06306437B1
Apomorphine/Prochlorperazine Combination By Wet Granulation Technique—Composition E
Separately, prochlorperazine was added to and blended with the mannitol (Part B). Parts A and B were then combined and mixed for about 5 minutes in a V-shaped blender. Next, magnesium stearate was added to the blender, followed by continued blending for about 2 minutes.

reactant | prochlorperazine | CN1CCN(CC1)CCCN2C=3C=CC=CC3SC4=C2C=C(C=C4)Cl | C20H24ClN3S
reactant | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | magnesium stearate | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | Apomorphine Prochlorperazine | CN1CCC=2C=CC=C3C2[C@H]1CC4=C3C(=C(C=C4)O)O.CN1CCN(CC1)CCCN2C=3C=CC=CC3SC4=C2C=C(C=C4)Cl | InChI=1S/C20H24ClN3S.C17H17NO2/c1-22-11-13-23(14-12-22)9-4-10-24-17-5-2-3-6-19(17)25-20-8-7-16(21)15-18(20)24;1-18-8-7-10-3-2-4-12-15(10)13(18)9-11-5-6-14(19)17(20)16(11)12/h2-3,5-8,15H,4,9-14H2,1H3;2-6,13,19-20H,7-9H2,1H3/t;13-/m.1/s1
